### ISSUE TITLE
HexPoly Phase 6: add coeff_add_semiring, coeff_sub_ring, coeff_neg_ring simp wrappers

### ISSUE THREAD

**Issue by kim-em** [kim-em/hex-dev#5165]
## Current state

`HexPoly/Operations.lean` has a clear pattern for shipping
typeclass-specialized `@[simp]` coefficient lemmas alongside their
generic `[Add R] / [Sub R] / [Mul R] / [NatCast R]` counterparts:

| generic lemma            | semiring-specialized simp lemma          |
| ------------------------ | ---------------------------------------- |
| `coeff_scale`            | `coeff_scale_semiring`                   |
| `coeff_shift_scale`      | `coeff_shift_scale_semiring`             |
| `eval_C`                 | `eval_C_semiring`                        |
| `coeff_derivative`       | `coeff_derivative_semiring`              |

Each `_semiring` lemma packages the zero-hypothesis the generic
version takes (e.g. `0 * x = 0`) using
`Lean.Grind.Semiring.{mul_zero, zero_mul}` and is registered with
`@[simp]` so callers don't need to discharge the hypothesis by hand.

The additive cluster is the asymmetric corner: `coeff_add` (line
341), `coeff_sub` (line 357), and `coeff_neg` (line 378) all
require a `Zero.zero + Zero.zero = Zero.zero` (resp.
`Zero.zero - Zero.zero = Zero.zero`) hypothesis on their generic
forms, and **no typeclass-specialized simp wrappers exist for any
of them**.

Downstream callers therefore plumb explicit zero-laws by hand.
Examples currently in tree (selected; `git grep -n
"DensePoly\\.coeff_add\\|DensePoly\\.coeff_sub\\|DensePoly\\.coeff_neg"`
finds many more):

- `HexPolyFp/Compose.lean:202,213,480-485,525,546,810,812,939` —
  threads `zmod64_add_zero_zero_local` / `zmod64_sub_zero_zero_local`
  through every `coeff_add` / `coeff_sub` / `coeff_neg` rewrite.
- `HexPolyFp/Basic.lean:119-121,140,141,150` — same pattern with
  local `hzero_add` / `hzero_sub` hypotheses.
- `HexPolyFp/QuotientFrobenius.lean:292` — same pattern.

`ZMod64 p` carries `Lean.Grind.CommRing (ZMod64 p)` (and therefore
`Lean.Grind.Semiring` and `Lean.Grind.Ring`), which provides the
required `0 + 0 = 0` and `0 - 0 = 0` laws via `grind`, so every one
of the above call sites would simplify once the typeclass wrappers
exist.

## Deliverables

In `HexPoly/Operations.lean`, add three public docstringed
`@[simp]` typeclass-specialized wrappers, mirroring the existing
`_semiring` cluster shape:

1. **`coeff_add_semiring`** — place immediately after `coeff_add`
   (line 353). Statement:

   ```lean
   /-- Semiring-specialized coefficient law for addition. -/
   @[simp] theorem coeff_add_semiring {S : Type u}
       [Lean.Grind.Semiring S] [DecidableEq S]
       (p q : DensePoly S) (n : Nat) :
       (p + q).coeff n = p.coeff n + q.coeff n :=
     coeff_add p q n (by grind)
   ```

   The `by grind` proof discharges
   `(Zero.zero : S) + Zero.zero = Zero.zero` from the semiring
   axioms, exactly the way `coeff_derivative_semiring` and
   `eval_C_semiring` discharge their analogous zero-laws.

2. **`coeff_sub_ring`** — place immediately after `coeff_sub`
   (line 369). Statement:

   ```lean
   /-- Ring-specialized coefficient law for subtraction. -/
   @[simp] theorem coeff_sub_ring {S : Type u}
       [Lean.Grind.Ring S] [DecidableEq S]
       (p q : DensePoly S) (n : Nat) :
       (p - q).coeff n = p.coeff n - q.coeff n :=
     coeff_sub p q n (by grind)
   ```

   `Lean.Grind.Ring` is the right typeclass: subtraction needs an
   additive group, which `Semiring` does not supply, but `Ring`
   does. The `by grind` proof closes `0 - 0 = 0` from the ring
   axioms.

3. **`coeff_neg_ring`** — place immediately after `coeff_neg`
   (line 382). Statement:

   ```lean
   /-- Ring-specialized coefficient law for negation. -/
   @[simp] theorem coeff_neg_ring {S : Type u}
       [Lean.Grind.Ring S] [DecidableEq S]
       (p : DensePoly S) (n : Nat) :
       (-p).coeff n = -(p.coeff n) := by
     have h := coeff_neg p n (by grind : (0 : S) - 0 = 0)
     simpa using h
   ```

   The generic `coeff_neg` states `(-p).coeff n = (0 : S) - p.coeff n`.
   In a ring, `(0 : S) - x = -x`, so the cleaner ring-flavored
   normal form is the one above. Use `simpa` (or `grind`) to close
   the `0 - x = -x` step. If that does not discharge cleanly,
   `Lean.Grind.Ring.zero_sub` (or an equivalent named lemma) can be
   rewritten explicitly — pick whichever produces a one-line proof
   without unfolding `DensePoly.neg`.

Style notes:
- All three lemmas carry `@[simp]`, matching the existing
  `_semiring` cluster (see `coeff_scale_semiring`,
  `coeff_shift_scale_semiring`, `eval_C_semiring`,
  `coeff_derivative_semiring`).
- One-line docstrings, matching the existing pattern in the same
  file.
- Do **not** rewire existing call sites in this issue. The goal of
  this issue is to add the missing surface; migrating
  `HexPolyFp/Compose.lean`, `HexPolyFp/Basic.lean`, etc., is a
  natural follow-up Phase 6 review issue and out of scope here.

## Context

Phase 6 (proof polishing) for `HexPoly` is open per
`python3 scripts/status.py`:

```
HexPoly -> Phase 6 (proof polishing)
  spec: SPEC/Libraries/hex-poly.md
  plan: PLAN/Phase6.md
  on complete: libraries.yml HexPoly.done_through: 6
```

Recent Phase 6 wrappers in this library (#5130 add semiring simp
wrappers, #5114 leadingCoeff helper, #5152 constructor size lemmas
in flight) follow this exact additive-wrapper pattern; this issue
completes the additive coefficient trio.

This change is strictly additive: no behavior change, no rewiring,
no impact on the rest of the project graph beyond the new
declarations being available as simp lemmas.

## Verification

- `lake build HexPoly.Operations`
- `lake build HexPoly`
- `python3 scripts/check_dag.py`
- `git diff --check`
- `git grep -n "coeff_add_semiring\\|coeff_sub_ring\\|coeff_neg_ring" HexPoly/Operations.lean`
  — confirms the three new declarations are present.
- `git diff -- HexPoly/Operations.lean | rg -n "sorry|axiom|native_decide|TODO|FIXME"`
  — must produce no output.

End-of-turn progress file as usual.

**Comment by kim-em** [comment]
Session: `078d18d8-e97d-4c10-95a3-d75c81f8f64b` Branch: `agent/078d18d8`

**Comment by kim-em** [comment]
Claimed by session `306c4459-b302-41cb-84f4-7eddf7943e5b` on branch `agent/306c4459`
